US05310743
h) (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
2.2 ml (15.8 mmol) of trifluoroacetic anhydride are added to a solution of 6.2 g (14.4 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine and 2.6 ml (1 8.7 mmol) of triethylamine in 60 ml of methylene chloride at 0° under argon, and the reaction mixture is stirred at 0° for 3 hours. It is diluted with methylene chloride and washed with water. The organic phases are dried over magnesium sulfate and evaporated to dryness. The title compound is obtained as TLC-pure product as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.62, DCI-MS: (M+H)+ =528.

reactant | trifluoroacetic anhydride | 15.8 mmol, 2.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine | 14.4 mmol, 6.2 g | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C(=O)OC(C)(C)C | C27H33N3O2
reactant | triethylamine | 8.7 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)OC(C)(C)C | C29H32F3N3O3
